US05856517
4-Carbomethoxy-2-(N-2-propylamino)phenylacetaldehyde dimethylacetal (3.7 g, 13.15 mmole) was refluxed with 100 mL of 1N hydrochloric acid in methanol for 1 h. The solution was concentrated and the residue dissolved in 50 mL of ethyl acetate, washed with saturated sodium bicarbonate solution, dried organic layer over magnesium sulfate and evaporated to give 2.78 g of 6-carbomethoxy-1-(2-propyl)indole.

reactant | 4-Carbomethoxy-2-(N-2-propylamino)phenylacetaldehyde dimethylacetal | 13.15 mmole, 3.7 g | COC(CC1=C(C=C(C=C1)C(=O)OC)NC(C)C)OC | C15H23NO4
reactant | hydrochloric acid | 1N, 100 mL | Cl | ClH
solvent | methanol | CO | CH4O
product | 6-carbomethoxy-1-(2-propyl)indole | 2.78 g | C(=O)(OC)C1=CC=C2C=CN(C2=C1)C(C)C | C13H15NO2
